US07732626B2
3′-chloro-4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde
To a solution of 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde (11.3 g, 50.0 mmol) in N,N-dimethylformamide (50 mL) was added N-chlorosuccinimide (6.68 g, 50.0 mmol) by small portions under ice-cooling, and the mixture was stirred at room temperature for 13 hr, and then at 50° C. for 3 hr. N-Chlorosuccinimide (1.34 g, 10.0 mmol) was added to the reaction mixture, and the mixture was stirred at the same temperature for 3 hr. N-Chlorosuccinimide (0.668 g, 5.00 mmol) was added again, and the mixture was further stirred at the same temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-40:60), and the obtained crystals were recrystallized from ethyl acetate-heptane to give the title compound (8.47 g, yield 65%) as colorless crystals.

reactant | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 50.0 mmol, 11.3 g | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
reactant | N-chlorosuccinimide | 50.0 mmol, 6.68 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-Chlorosuccinimide | 10.0 mmol, 1.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-Chlorosuccinimide | 5.00 mmol, 0.668 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3′-chloro-4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 8.47 g, yield 65% | ClC=1C(=C(C(=CC1O)C)C1=CC(=CC=C1)C=O)C | C15H13ClO2
